US07129239B2
Preparation of 9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-6-(2,2,2-trifluoro-ethoxy)-9H-purine (5A-1)
Potassium tert-butoxide (1 M in THF; 0.73 ml, 0.73 mmol) and 2,2,2-trifluoroethanol (2 ml) were stirred at room temperature and to this mixture was added 6-chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine I-(1A-1)d (100 mg, 0.24 mmol). The reaction mixture was stirred at room temperature for 3 days then quenched with H2O and diluted with chloroform. The organic layer was washed with brine, dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified by preparative TLC using 20% ethyl acetate/hexanes as the eluant to give title compound 5A-1 (20 mg, 17%): +ACPI MS (M+1) 473.1; 1H NMR: (400 MHz, CD3OD): δ 8.58 (s, 1H), 7.64 (d, 1H), 7.57 (d, 1H), 7.50–7.41 (m, 3H), 7.36 (d, 2H), 5.23 (q, 2H).

reactant | Potassium tert-butoxide | 0.73 mmol, 1 M, 0.73 ml | CC(C)([O-])C.[K+]
reactant | 2,2,2-trifluoroethanol | 2 ml | FC(CO)(F)F | C2H3F3O
reactant | 6-chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H8Cl4N4
product | 9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-6-(2,2,2-trifluoro-ethoxy)-9H-purine | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)OCC(F)(F)F | C19H10Cl3F3N4O
